US05731477
Preparation of 4-difluoromethoxynitrobenzene
4-Nitrophenol (0.10 g, 0.72 mmol, Aldrich), sodium chlorodifluoroacetate (0.11 g, 0.72 mmol, Alfa Products) and sodium hydroxide (0.03 g, 0.72 mmol) were combined in dry DMF (1 mL) under an atmosphere of argon. After stirring at 125° C. for 1 h, the mixture was cooled to RT, was diluted with water and was extracted twice with ether. The combined organic extracts were washed twice with brine, were dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography (silica gel, 25% ethyl acetate/hexanes ) to provide the title compound as a white solid (0.10 g, 73%). mp 33°-35° C.

reactant | 4-Nitrophenol | 0.72 mmol, 0.10 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium chlorodifluoroacetate | 0.72 mmol, 0.11 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | sodium hydroxide | 0.72 mmol, 0.03 g | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-difluoromethoxynitrobenzene | 0.10 g, 73% | FC(OC1=CC=C(C=C1)[N+](=O)[O-])F | C7H5F2NO3
